// Generated for: spectre (Apr 19 14:38:17 2013 )
// Library name: gsclib045_lvt
// Cell name: TLATNCAX20
// View name: schematic

simulator lang=spectre

subckt TLATNCAX20 CK E ECK VDD VSS
mp6 (n0 CKbb net217 VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp5 (net217 E VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp22 (ECK ECKb VDD VDD) g45p1lvt w=(7.815u) l=45n nf=1 as=1.0941p \
        ad=1.0941p ps=15.91u pd=15.91u nrd=17.9143m nrs=17.9143m sa=140n \
        sb=140n sd=160n sca=45.04913 scb=0.05038 scc=0.00572 m=(1)
mp16 (n0 CKb net205 VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp15 (net205 Eint VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f \
        ad=30.1f ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n \
        sd=160n sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp0 (CKb CK VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp1 (CKbb CKb VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp20 (ECKb Eint VDD VDD) g45p1lvt w=(1.95u) l=45n nf=1 as=273f ad=273f \
        ps=4.18u pd=4.18u nrd=71.7949m nrs=71.7949m sa=140n sb=140n \
        sd=160n sca=57.40007 scb=0.05714 scc=0.00699 m=(1)
mp21 (ECKb CKbb VDD VDD) g45p1lvt w=(1.95u) l=45n nf=1 as=273f ad=273f \
        ps=4.18u pd=4.18u nrd=71.7949m nrs=71.7949m sa=140n sb=140n \
        sd=160n sca=57.40007 scb=0.05714 scc=0.00699 m=(1)
mp10 (Eint n0 VDD VDD) g45p1lvt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mn5 (net254 E VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn6 (n0 CKb net254 VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn22 (ECK ECKb VSS VSS) g45n1lvt w=(5.185u) l=45n nf=1 as=725.9f \
        ad=725.9f ps=10.65u pd=10.65u nrd=27.001m nrs=27.001m sa=140n \
        sb=140n sd=160n sca=47.17159 scb=0.05152 scc=0.00593 m=(1)
mn21 (ECKb CKbb net238 VSS) g45n1lvt w=(1.3u) l=45n nf=1 as=182f ad=182f \
        ps=2.88u pd=2.88u nrd=107.692m nrs=107.692m sa=140n sb=140n \
        sd=160n sca=65.32613 scb=0.06164 scc=0.00784 m=(1)
mn20 (net238 Eint VSS VSS) g45n1lvt w=(1.3u) l=45n nf=1 as=182f ad=182f \
        ps=2.88u pd=2.88u nrd=107.692m nrs=107.692m sa=140n sb=140n \
        sd=160n sca=65.32613 scb=0.06164 scc=0.00784 m=(1)
mn16 (n0 CKbb net230 VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn15 (net230 Eint VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f \
        ad=20.3f ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n \
        sd=160n sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn0 (CKb CK VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn10 (Eint n0 VSS VSS) g45n1lvt w=(520n) l=45n nf=1 as=72.8f ad=72.8f \
        ps=1.32u pd=1.32u nrd=269.231m nrs=269.231m sa=140n sb=140n \
        sd=160n sca=98.28759 scb=0.08111 scc=0.01166 m=(1)
mn1 (CKbb CKb VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
ends TLATNCAX20
// End of subcircuit definition.

